US06884868B1
A solution of cis-2,6-dimethyl-4-(4-piperazinylphenyl)morpholine (2.00 g), 4-fluorobenzoic acid ethyl ester (1.43 g) and potassium carbonate (1.01 g) in dimethylsulfoxide (40 ml) was stirred for 8 hours at 150° C., during which period additional 4-fluorobenzoic acid ethyl ester (1.35 g) and potassium carbonate (1.0 g) was added to the mixture. The reaction mixture was added to a mixture of water and dichloromethane. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (25:1 dichloromethane-methanol elution) to give 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid ethyl ester (2.5 g).

reactant | cis-2,6-dimethyl-4-(4-piperazinylphenyl)morpholine | 2.00 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)N1CCNCC1 | C16H25N3O
reactant | 4-fluorobenzoic acid ethyl ester | 1.43 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | potassium carbonate | 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzoic acid ethyl ester | 1.35 g | C(C)OC(C1=CC=C(C=C1)F)=O | C9H9FO2
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[4-[4-(cis-2,6-dimethylmorpholin-4-yl)phenyl]piperazin-1-yl]benzoic acid ethyl ester | 2.5 g | C(C)OC(C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C[C@H](O[C@H](C1)C)C)=O | C25H33N3O3
